US08350100B2
A solution of (0 mmol) of 0, (0.12 mmol) of 12, 14 mg (0.13 mmol) of neopentyl glycol, 95 mg (0.3 mmol) of Ba(OH)2.8H2O, 80 μl (6.08 mmol, 5 mol %) of a 76 mM acetone solution of Pd(OAc)2 in 2 ml of 95% i-PrOH is stirred at 80° C. for 12 hours. The solvent is subsequently removed under reduced pressure, 2 ml of 2 M HCl are added to the residue, and the mixture is extracted with dichloromethane (3×2 ml). The combined organic phases are dried over MgSO4 and filtered through SiO2. The solvent is removed under reduced pressure, and the residue is purified by recrystallisation ice from nonane (yield: 65%).

reactant | neopentyl glycol | 0.13 mmol, 14 mg | OCC(C)(CO)C | C5H12O2
reactant | acetone | 76 mM | CC(=O)C | C3H6O
reactant | i-PrOH | 2 ml | CC(C)O | C3H8O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | nonane | yield: 65% | CCCCCCCCC | C9H20
